### PR TITLE
fix(ErdosProblems): 197

### PR DESCRIPTION
**Pull request by smmercuri**
- The previous definition of `HasMonotoneAP` was correct but had a slightly unnatural ordering of types in the formalisation, with `f` being a map from the value type of the sequence to the index type.
- This led to a misformalisation in `erdos_197` where the permutations are maps from index type to value type.
- Rather than use `f.symm` in `erdos_197`, reverse ordering within `HasMonotoneAP` so that it is more natural.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/197.lean [hunk 1]
```diff
@@ -33,8 +33,10 @@ Can $\mathbb{N}$ be partitioned into two sets, each of which can be permuted to
...
 theorem erdos_197 :
     answer(sorry) ↔ ∃ A B : Set ℕ, IsCompl A B ∧
-      (∃ f : ℕ ≃ A, ¬ HasMonotoneAP f 3) ∧
-      (∃ g : ℕ ≃ B, ¬ HasMonotoneAP g 3) := by
+      (∃ f : ℕ ≃ A, ¬HasMonotoneAP (Subtype.val ∘ f) 3) ∧
+      (∃ g : ℕ ≃ B, ¬HasMonotoneAP (Subtype.val ∘ g) 3) := by
   sorry
 
+
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/197.lean]:
```suggestion

```

File: FormalConjecturesForMathlib/Combinatorics/AP/Basic.lean [hunk 2]
```diff
@@ -244,8 +244,8 @@ def ContainsMonoAPofLength {κ : Type} [Finite κ] {M : Set α}
 A function `f : α → β` has a monotone `k`-term arithmetic progression if there exists an
 arithmetic progression `l` of length `k` in `α` such that its image under `f` is sorted.
```
Comment (Paul-Lez) [inline FormalConjecturesForMathlib/Combinatorics/AP/Basic.lean]:
```suggestion
A function `f : β → α` has a monotone `k`-term arithmetic progression if there exists an
sorted list in `β` whose image under `f` is an arithmetic progression `l` of length `k`.
```

File: FormalConjecturesForMathlib/Combinatorics/AP/Basic.lean [hunk 3]
```diff
@@ -244,8 +244,8 @@ def ContainsMonoAPofLength {κ : Type} [Finite κ] {M : Set α}
...
 -/
-def HasMonotoneAP {β : Type*} [Preorder β] (f : α → β) (k : ℕ) : Prop :=
-  ∃ l : List α, l.IsAPOfLength k ∧ (l.map f).Pairwise (· < ·)
+def HasMonotoneAP {β : Type*} [Preorder β] (f : β → α) (k : ℕ) : Prop :=
```
Comment (Paul-Lez) [inline FormalConjecturesForMathlib/Combinatorics/AP/Basic.lean:248]: Maybe I'm missing something, but don't we want `f` to be order preserving on that list?

Comment (smmercuri) [reply FormalConjecturesForMathlib/Combinatorics/AP/Basic.lean:248]: The definition from [ErGr90] is "Let us say that a sequence $(a_1,a_2,…)$ has a monotone AP of length k if for some choice of indices $i_1<i_2<⋯<i_k$, the subsequence $a_{i_1},a_{i_2},…,a_{i_k}$ is either an increasing or decreasing AP. So we want the image of `f` to be either order preserving or anti order preserving. This condition is asserted inside `List.IsAPOfLength k`.

File: FormalConjectures/ErdosProblems/197.lean [hunk 4]
```diff
@@ -33,8 +33,8 @@ Can $\mathbb{N}$ be partitioned into two sets, each of which can be permuted to
 @[category research open, AMS 5]
 theorem erdos_197 :
     answer(sorry) ↔ ∃ A B : Set ℕ, IsCompl A B ∧
-      (∃ f : ℕ ≃ A, ¬ HasMonotoneAP f 3) ∧
-      (∃ g : ℕ ≃ B, ¬ HasMonotoneAP g 3) := by
+      (∃ f : ℕ ≃ A, ¬HasMonotoneAP (Subtype.val ∘ f) 3) ∧
+      (∃ g : ℕ ≃ B, ¬HasMonotoneAP (Subtype.val ∘ g) 3) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/197.lean:37]: I'd prefer to switch around the: A ≃ ℕ instead of the ugley Subtype.val, but either one is fine with me...

**Review by mo271 — APPROVED** [review]

File: FormalConjectures/ErdosProblems/197.lean (hunk 4 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/197.lean:37]: I think I'll keep the `Subtype.val`. It's ugly but it means this statement and `HasMonotoneAP` are a bit more readable with respect to the informal statement imo!
